US05218109
The procedure of Example 1 was repeated except that 93 mg of 1α,3β-diacetoxypregna-5,7-diene-20-carbaldehyde was used in lieu of 100 mg of 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde to give 78 mg of 1α,3β-diacetoxy-20-methylpregna-5,7-diene-21-ol.

reactant | 1α,3β-diacetoxypregna-5,7-diene-20-carbaldehyde | 93 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C26H36O5
reactant | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde | 100 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C26H36O7
product | 1α,3β-diacetoxy-20-methylpregna-5,7-diene-21-ol | 78 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(CO)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C26H38O5
